US05776658
Preparation of 1-hydroxy-1-[2-(2-trimethoxysilylethyl)benzoyl]cyclohexane (6)
14.4 g (70 mmol) of 1-hydroxy-1-benzoylcyclohexane, 11.75 ml (77 mmol) of vinyltrimethoxysilane and 1.28 g (1.4 mmol) of RuH2 (CO) (PPh3)3 in 100 ml of anhydrous toluene were stirred at reflux for 4.5 hours. Following concentration and chromatography (silica gel, CH2Cl2 /ethyl acetate), 12.2 g (49%) of a yellowish oil were obtained which was found to be pure by 1H-NMR spectroscopy but which was purified further by bulb-tube distillation (200° C., 0.2 mbar). 1H-NMR (CDCl3):1.01 ppm (2H, mc, Et-H2); 1.15-1.28 ppm (1H, m, cyclohexyl-H); 1.57-1.89 ppm (9H, m, cyclohexyl-H); 2.59 ppm (2H, mc, Et-H1); 3.33 ppm (1H, s, OH); 3.35 ppm (9H, s, Si(OCH3)3); 7.17-7.40 ppm (4H, M, Ph-H).

reactant | 1-hydroxy-1-benzoylcyclohexane | 70 mmol, 14.4 g | OC1(CCCCC1)C(C1=CC=CC=C1)=O | C13H16O2
reactant | vinyltrimethoxysilane | 77 mmol, 11.75 ml | C(=C)[Si](OC)(OC)OC | C5H12O3Si
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-hydroxy-1-[2-(2-trimethoxysilylethyl)benzoyl]cyclohexane | 12.2 g, 49% | OC1(CCCCC1)C(C1=C(C=CC=C1)CC[Si](OC)(OC)OC)=O | C18H28O5Si
